US03962259
Reaction of 2-chloro-4-fluoro-N-(1-hydroxy-2-methyl-2-propyl)benzamide and thionyl chloride by the method described in Example 1b provides 2(2-chloro-4-fluorophenyl)-4,4-dimethyl-2-oxazoline as a liquid; hydrochloride salt, m.p. 138°-139°.

reactant | 2-chloro-4-fluoro-N-(1-hydroxy-2-methyl-2-propyl)benzamide | ClC1=C(C(=O)NC(CO)(C)C)C=CC(=C1)F | C11H13ClFNO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2(2-chloro-4-fluorophenyl)-4,4-dimethyl-2-oxazoline | ClC1=C(C=CC(=C1)F)C=1OCC(N1)(C)C | C11H11ClFNO
